US07332508B2
N-{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}-N,N-dimethylamine, Dihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine and dimethylamine. HPLC: Rt=4.43 min.

reactant | 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C1CCCC1 | C20H26ClN3O
reactant | dimethylamine | CNC | C2H7N
product | N-{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}-N,N-dimethylamine, Dihydrochloride | Cl.Cl.C1(CCCC1)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(CN(C)C)C=C1 | InChI=1S/C22H32N4O.2ClH/c1-25(2)16-18-7-9-19(10-8-18)22-23-21(24-27-22)15-17-11-13-26(14-12-17)20-5-3-4-6-20;;/h7-10,17,20H,3-6,11-16H2,1-2H3;2*1H
